US06001867
[4-(Dibenzothiophen-1-yl)-phenoxy]-acetic Acid
To a solution of [4-(dibenzothiophen-1-yl)-phenoxy]-acetic acid methyl ester (0.911 g, 2.61 mmol) in tetrahydrofuran (15 mL) and methanol (5 mL) was added an aqueous solution of potassium hydroxide (1N, 3.10 mL, 3.10 mmol, 1.2 eq) dropwise at room temperature. After stirring 1 hour at room temperature the solvents were removed. The residue was dissolved in water (125 mL) and was acidified with 10% aqueous hydrochloric acid. The water was removed and the solid was triturated in petroleum ether. Recrystallization from boiling acetic acid with hot filtration to give the title compound as a white crystalline solid (0.458 g, 52%): mp 169.5-170.5° C.; NMR (CDCl3): δ 7.88-7.81 (m, 2H), 7.48-7.39 (m, 3H), 7.37-7.32 (m, 1H), 7.26-7.17 (m, 2H), 7.13-7.08 (m, 3H), 4.83 (s, 2H); MS (El): [M+] 334; Anal. Calc. for C20H14O3S: C, 71.84, H, 4.22, N, 0.00. Found: C, 71.04, H, 3.90, N, 0.09.

reactant | [4-(dibenzothiophen-1-yl)-phenoxy]-acetic acid methyl ester | 2.61 mmol, 0.911 g | COC(COC1=CC=C(C=C1)C1=CC=CC=2SC3=C(C21)C=CC=C3)=O | C21H16O3S
reactant | potassium hydroxide | 3.10 mmol, 1N, 3.10 mL, 1.2 eq | [OH-].[K+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | [4-(Dibenzothiophen-1-yl)-phenoxy]-acetic Acid | 0.458 g, 52% | C1(=CC=CC=2SC3=C(C21)C=CC=C3)C3=CC=C(OCC(=O)O)C=C3 | C20H14O3S
